US07582643B2
4-Piperidone ethylene ketal (127.0 g, 0.887 mol), Et3N (145 mL, 1.044 mol), and 4-dimethylaminopyridine (DMAP, 10.5 g, 0.086 mol) were mixed in dichloromethane (1 L). A solution of trifluoroacetic anhydride (192.0 g, 0.91 mol) in dichloromethane (500 mL) was added dropwise at 0-5° C. for 1 h. The mixture was allowed to warm up to room temperature and stirred overnight. The reaction mixture was washed with 1 N aqueous HCl (2×1.2 L), water (1.2 L), 10% aqueous NaHCO3 (1.2 L), brine (600 mL), dried over anhydrous Na2SO4, and evaporated under vacuum to afford 8-(trifluoroacetyl)-1,4-dioxa-8-azaspiro[4.5]decane (194.5 g).

reactant | 4-Piperidone ethylene ketal | 0.887 mol, 127.0 g | C1COC2(CCNCC2)O1 | C7H13NO2
reactant | Et3N | 1.044 mol, 145 mL | CCN(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.91 mol, 192.0 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
catalyst | 4-dimethylaminopyridine | 0.086 mol, 10.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 8-(trifluoroacetyl)-1,4-dioxa-8-azaspiro[4.5]decane | 194.5 g | FC(C(=O)N1CCC2(OCCO2)CC1)(F)F | C9H12F3NO3
